US05218114
B) 1,3-Dihydro-1-(1H-tetrazol-5-yl)methyl-3-[(benzyloxycarbonyl)amino]-5-phenyl-2H-1,4-benzodiazepin-2-one. (2)
A mixture of 150 mg of 1,3-dihydro-1-cyanomethyl-3-[(benzyloxycarbonyl)amino]-5-phenyl-2H-1,4-benzodiazepin-2-one, 124 mg of sodium azide, and 102 mg of ammonium chloride was heated in 3 ml of dry N,N-dimethylformamide at 110° C. for 4 hours. The reaction mixture was concentrated in vacuo and the residue was suspended in water, acidified with 1N HCl solution, and extracted twice with ethyl acetate. The combined organic extracts were dried (sodium sulfate) and concentrated to give 180 mg of crude product. Purification via preparative thick layer chromatography on 4 1.0 mm×20 cm×20 cm silica gel plates (90:10:1, chloroform-methanol-acetic acid elution) afforded 99 mg of the title compound.

reactant | 1,3-dihydro-1-cyanomethyl-3-[(benzyloxycarbonyl)amino]-5-phenyl-2H-1,4-benzodiazepin-2-one | 150 mg | C(#N)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C25H20N4O3
reactant | sodium azide | 124 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 102 mg | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1,3-Dihydro-1-(1H-tetrazol-5-yl)methyl-3-[(benzyloxycarbonyl)amino]-5-phenyl-2H-1,4-benzodiazepin-2-one | 99 mg | N1N=NN=C1CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C25H21N7O3
